US04206225
5,6,7,8,9,10-Hexahydro-2-hydroxy-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)10-methylene-benzo[c]quinoline
A 1 N ethereal solution of butyllithium (9 ml.) is added with stirring, under a nitrogen atmosphere to a suspension of 3.57 g. (10 mmoles) of methyltriphenylphosphonium bromide (prepared from methyl bromide and triphenylphosphine) in 50 ml. of ether. 5,6,7,8,9,10-Hexahydro-2-hydroxy-3-(1-methyl-4-phenylbutyl)-6,6-dimethyl-10-oxo-benzo[c]quinoline (600 mg., 1.5 mmoles) dissolved in 100 ml. of ether is added and the mixture is stirred for four hours then allowed to stand overnight at room temperature. Ether is distilled off as tetrahydrofuran is added until most of the ether is replaced. The mixture was then refluxed for six hours, cooled and worked-up as described in Part A of Example 42 to obtain the title compound.

reactant | butyllithium | 9 ml | C(CCC)[Li]
reactant | 5,6,7,8,9,10-Hexahydro-2-hydroxy-3-(1-methyl-4-phenylbutyl)-6,6-dimethyl-10-oxo-benzo[c]quinoline | 1.5 mmoles, 600 mg | OC=1C=C2C3=C(C(NC2=CC1C(CCCC1=CC=CC=C1)C)(C)C)CCCC3=O | C26H31NO2
catalyst | methyltriphenylphosphonium bromide | 10 mmoles | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | CCOCC | C4H10O
product | 5,6,7,8,9,10-Hexahydro-2-hydroxy-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)10-methylene-benzo[c]quinoline | OC=1C=C2C3=C(C(NC2=CC1C(CCCC1=CC=CC=C1)C)(C)C)CCCC3=C | C27H33NO
